US05480873
3) 3,6-Dimethoxyphthalic anhydride
3,6-Dimethoxybenzene-1,2-dicarboxylic acid (20 g) was dissolved in pyridine (100 ml) at room temperature. The solution was then cooled in a cold water bath and acetic anhydride (27 g, 25 ml) added dropwise over 10 minutes (temperature rose from 23° to 25° C.) The reaction mixture was then stirred for 90 minutes at 12° C., filtered, washed with ether (100 ml) and pulled dry to give a pale cream solid. Dried at 50° C. in a vacuum oven, m.p. 268°-269° C.

reactant | 3,6-Dimethoxybenzene-1,2-dicarboxylic acid | 20 g | COC1=C(C(=C(C=C1)OC)C(=O)O)C(=O)O | C10H10O6
reactant | acetic anhydride | 25 ml, 27 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3,6-Dimethoxyphthalic anhydride | COC1=C2C(C(=O)OC2=O)=C(C=C1)OC | C10H8O5
